US07507758B2
Di-tert-butyldicarbonate (18.0 g, 82.6 mole) and 4-dimethylamino pyridine (5 mg) were added at RT and while stirring to a solution of 1H-indole-3-carbaldehyde (10 g, 68.8 mmole) in abs. THF (150 ml) and stirred for 15 min at RT. For working up, the solvent volume was halved, and saturated ammonium chloride solution (100 ml) and ether (160 ml) were added. The aqueous phase was shaken out with ether (3×50 ml) and the combined organic phases were washed with water (2×50 ml) and saturated sodium chloride solution (1×50 ml), dried, filtered and evaporated. 15.4 g 3-formyl-indole-1-carboxylic acid-tert-butylester were obtained as a yellow solid (mp. 124 to 126° C.).

reactant | Di-tert-butyldicarbonate | 82.6 mole, 18.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1H-indole-3-carbaldehyde | 68.8 mmole, 10 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | THF | 150 ml | C1CCOC1 | C4H8O
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
catalyst | 4-dimethylamino pyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 160 ml | CCOCC | C4H10O
product | 3-formyl-indole-1-carboxylic acid-tert-butylester | 15.4 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C=O | C14H15NO3
